US04209527
The procedure described in Example 1 was repeated (using the same molar proportions as before) except that 210 mg. (0.0007 mole) of 5,6-dichloro-2-oxo-1-benzimidazolineacetic acid ethyl ester (prepared according to the procedure described in Preparation A) and 120 mg. (0.0007 mole) of benzyl bromide were reacted to afford crude 3-benzyl-5,6-dichloro-2-oxo-1-benzimidazolineacetic acid ethyl ester, which was used as such in the next reaction step (viz., hydrolysis to the corresponding acid as hereinafter described in Example 24) without any further purification being necessary.

reactant | 5,6-dichloro-2-oxo-1-benzimidazolineacetic acid ethyl ester | 0.0007 mole | C(C)OC(CN1C(NC2=C1C=C(C(=C2)Cl)Cl)=O)=O | C11H10Cl2N2O3
reactant | benzyl bromide | 0.0007 mole | C(C1=CC=CC=C1)Br | C7H7Br
product | 3-benzyl-5,6-dichloro-2-oxo-1-benzimidazolineacetic acid ethyl ester | C(C)OC(CN1C(N(C2=C1C=C(C(=C2)Cl)Cl)CC2=CC=CC=C2)=O)=O | C18H16Cl2N2O3
